US08071584B2
7-Bromo-4-fluoro-2,3-dihydro-1H-indole
NaCNBH3 (2.4 g, 38.2 mmol) was added portionwise to a solution of 7-bromo-4-fluoro-1H-indole (1 g, 4.7 mmol) in acetic acid at −10° C. (bath temp). The reaction was stirred overnight, cooled to 0° C. (bath temp), and solid KOH was added. Saturated NaHCO3 and EtOAc were added, the layers were separated, and the organic layer evaporated. The crude product was purified by flash chromatography, giving the title compound.

reactant | NaCNBH3 | 38.2 mmol, 2.4 g | [BH3-]C#N.[Na+]
reactant | 7-bromo-4-fluoro-1H-indole | 4.7 mmol, 1 g | BrC=1C=CC(=C2C=CNC12)F | C8H5BrFN
reactant | KOH | [OH-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Bromo-4-fluoro-2,3-dihydro-1H-indole | BrC=1C=CC(=C2CCNC12)F | C8H7BrFN
